US08124606B2
Methyl 6-oxo-6,7,7a,8,9,10-hexahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepine-3-carboxylate (0.900 g, 3.44 mmol) was suspended in THF (Volume: 11.48 ml) under nitrogen atmosphere and NaH (276 mg, 6.9 mmol) was added in several portions over 2 min. The reaction mixture was stirred at room temperature for 10 min and cooled to below −50° C. aluminum(III) lithium hydride (3.10 ml, 6.20 mmol) was added over the period of 5 min and the reaction was kept at a temperature between −30 and −20° C. for 1 h (LCMS: >95% conversion). The mixture was cooled to below −50° C. and MeOH (4 mL) was added. Water (1 mL) was added and the reaction mixture was stirred at rt for 10 min. Rochelle salt (20% solution) was added (10 mL) and the mixture was extracted with THF (4×10 mL). The combined organic extracts were dried (Na2SO4 and MgSO4), filtered and concentrated in vacuo. The residue was recrystallized from THF/Ethyl ether (1:1, 20 mL). The solid was filtered off and dried in vacuum to afford 3-(hydroxymethyl)-7a,8,9,10-tetrahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepin-6(7H)-one (0.654 g, 2.80 mmol, 81% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58 (m, J=11.62, 11.62, 9.73, 6.69 Hz, 1H) 1.74-1.85 (m, 1H) 1.86-1.96 (m, 1H) 2.14 (m, J=11.91, 5.98, 5.98, 1.89 Hz, 1H) 2.52-2.58 (m, 1H) 2.58-2.67 (m, 1H) 3.49 (ddd, J=10.93, 8.15, 2.15 Hz, 1H) 3.66 (td, J=10.61, 6.82 Hz, 1H) 3.81-3.93 (m, 1H) 4.31 (d, J=5.31 Hz, 2H) 5.01 (t, J=5.43 Hz, 1H) 7.14 (d, J=2.02 Hz, 1H) 7.77 (d, J=2.02 Hz, 1H) 9.60 (d, 1H). [M+H] calc'd for C12H15N3O2, 233; found, 233.

reactant | Methyl 6-oxo-6,7,7a,8,9,10-hexahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepine-3-carboxylate | 3.44 mmol, 0.900 g | O=C1CC2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCC2 | C13H15N3O3
reactant | NaH | 6.9 mmol, 276 mg | [H-].[Na+]
reactant | aluminum(III) lithium hydride | 6.20 mmol, 3.10 ml | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 11.48 ml | C1CCOC1 | C4H8O
solvent | Water | 1 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
product | 3-(hydroxymethyl)-7a,8,9,10-tetrahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepin-6(7H)-one | 2.80 mmol, 0.654 g, 81% yield | OCC1=CC=2NC(CC3N(C2N=C1)CCC3)=O | C12H15N3O2
